US07595327B2
Methyl 4-oxo-tetrahydro-2H-pyran-3-carboxylate and methyl 4-hydroxy-5,6-dihydro-2H-pyran-3-carboxylate (13.5 g, 85.5 mmol) were dissolved in DMF (70 mL). Sodium hydride (60%, 3.6 g, 1.05 eq) was added at 0° C. After 10 min, iodomethane (6.7 mL, 1.25 eq) was added. The reaction was stirred overnight, diluted with ethyl acetate (200 mL), and washed with water (5×100 mL). The aqueous layer was re-extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, and concentrated. The residue was purified by chromatography on silica gel eluting with 20% ethyl acetate/hexane to yield 8.2 g (61%) of methyl 3-methyl-4-oxo-tetrahydro-2H-pyran-3-carboxylate.

reactant | Methyl 4-oxo-tetrahydro-2H-pyran-3-carboxylate | O=C1C(COCC1)C(=O)OC | C7H10O4
reactant | methyl 4-hydroxy-5,6-dihydro-2H-pyran-3-carboxylate | 85.5 mmol, 13.5 g | OC1=C(COCC1)C(=O)OC | C7H10O4
reactant | Sodium hydride | 3.6 g, 1.05 eq | [H-].[Na+]
reactant | iodomethane | 6.7 mL, 1.25 eq | IC | CH3I
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-methyl-4-oxo-tetrahydro-2H-pyran-3-carboxylate | 8.2 g, 61% | CC1(COCCC1=O)C(=O)OC | C8H12O4
